US06713499B2
N-[7-(Benzyl-ethyl-amino)-4-methoxy-benzothiazol-2-yl]-4-fluoro-benzamide
From N7-ethyl-4-methoxy-benzothiazole-2,7-diamine with potassium carbonate and benzyl bromide in DMF, then treatment with 4-fluorobenzoic acid, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (%): 436 (M+H+, 100).

reactant | N7-ethyl-4-methoxy-benzothiazole-2,7-diamine | C(C)NC1=CC=C(C=2N=C(SC21)N)OC | C10H13N3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | N-[7-(Benzyl-ethyl-amino)-4-methoxy-benzothiazol-2-yl]-4-fluoro-benzamide | C(C1=CC=CC=C1)N(C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC)CC | C24H22FN3O2S
